US07338960B2
{4-[(1 {6-[4-(Trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}acetic acid
A solution of methyl {4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}acetate (329 mg, 0.72 mmol) in THF (9.5 mL) and methanol (9.5 mL) was treated with aqueous NaOH (2M, 9.5 mL) drop-wise and the resulting solution stirred at rt for 17 hours. The volatile solvents were then removed under vacuum and the resulting aqueous mixture acidified with aqueous HCl (2M, 15 mL), diluted with water (100 mL) and the product extracted with DCM (2×100 mL). The combined organic layers were then washed with brine (100 mL), dried (MgSO4), filtered and then reduced under vacuum to give the title compound as a pale yellow foam (314 mg).

reactant | methyl {4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}acetate | 0.72 mmol, 329 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)OC1=CC=C(C=C1)CC(=O)OC)(F)F | C26H26F3NO3
reactant | NaOH | 2M, 9.5 mL | [OH-].[Na+]
solvent | THF | 9.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 9.5 mL | CO | CH4O
product | {4-[(1 {6-[4-(Trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}acetic acid | 314 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)OC1=CC=C(C=C1)CC(=O)O)(F)F | C25H24F3NO3
